US06235764B1
5-(3{4-[Bis-(2-hydroxy-ethyl)-amino]-butyl}-ureido)-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 2-[(4-amino-butyl)-(2-hydroxy-ethyl)-amino]-ethanol by the procedure analogous to Example 1. MS (APCI, m/z): 502 [M+H]+.

reactant | [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 2-[(4-amino-butyl)-(2-hydroxy-ethyl)-amino]-ethanol | NCCCCN(CCO)CCO | C8H20N2O2
product | 5-(3{4-[Bis-(2-hydroxy-ethyl)-amino]-butyl}-ureido)-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide | OCCN(CCCCNC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)C)F)C(=O)N)=O)CCO | C21H29F2N5O5S
